data/oMe_Silver.jsonl
{"reaction_id": "NR-061_1-CCCC(C)C_2-C(C)(C)C","level": "easy","name": "Dieckmann Condensation","reactants_smiles": ["O(CCCC(C)C)C(=O)CCCC(=O)O(C(C)(C)C)"],"products_smiles": ["O(CCCC(C)C)C(=O)C1CCCC1=O"],"conditions": "Base","mechnism_text_description": "The Dieckmann condensation is the intramolecular reaction of diesters using strong bases yielding cyclic β-keto esters. It is the intramolecular variant of the Claisen condensation.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O(CCCC(C)C)C(=O)[CH-]CCCC(=O)O(C(C)(C)C)","step_weight": 0,"rationale": "Strong base abstracts the acidic α-proton due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O(CCCC(C)C)C(=O)C1C([O-])(O(C(C)(C)C))CCC1","step_weight": 0,"rationale": "The nucleophilic enolate attacks the electrophilic ester carbonyl intramolecularly, favored by proximity and formation of a stable five-membered ring."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O(CCCC(C)C)C(=O)C1CCCC1=O","step_weight": 0,"rationale": "Elimination of the alkoxide occurs because it is a good leaving group, restoring the carbonyl and yielding the conjugated β-keto ester."}],"description": "Under basic conditions, the α-proton of one ester is deprotonated to form an enolate, which intramolecularly attacks the carbonyl of the second ester, forming a cyclic intermediate. Elimination of the alkoxide yields the stable β-keto ester product."}
{"reaction_id": "NR-237_1-CC_2-c1ccc(F)cc1_3-c1ccc(C(F)(F)F)cc1_4-c1ccc(OC)cc1","level": "medium","name": "Staudinger Reaction","reactants_smiles": ["CCN=[N+]=[N-]","P(c1ccc(F)cc1)(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)"],"products_smiles": ["CCN","O=P(c1ccc(F)cc1)(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)"],"conditions": "H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCN=[N+]=N[P+](c1ccc(F)cc1)(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "The lone pair on phosphorus attacks the electrophilic terminal nitrogen of the azide, favored by the high polarizability and nucleophilicity of phosphorus and the electron deficiency at the azide terminus."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCN1N=NP1(c1ccc(F)cc1)(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "Intramolecular attack by the internal nitrogen on phosphorus forms a strained four-membered phosphatriazene ring, driven by proximity and the strong P–N bond formation."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CCN=P(c1ccc(F)cc1)(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "The unstable ring collapses, expelling N₂, a very stable leaving group, to form the iminophosphorane, driven by entropic gain and N₂ stability."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC[NH+]=P(c1ccc(F)cc1)(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "Protonation of the iminophosphorane nitrogen increases electrophilicity at phosphorus, activating it toward nucleophilic attack by water."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCN[P](O)(c1ccc(F)cc1)(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "Water attacks the electrophilic phosphorus center, favored by the strong thermodynamic drive to form a P=O bond and the activation from prior protonation."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CCN","step_weight": 0,"rationale": "Collapse of the intermediate expels the amine, driven by the stability of the P=O bond and relief of electronic strain on phosphorus."}],"description": "In the Staudinger reaction, the phosphine nucleophilically attacks the azide to form a phosphazide, which cyclizes and eliminates N₂ to give an iminophosphorane. Hydrolysis under aqueous conditions then converts this intermediate into a primary amine and phosphine oxide, driven by strong P=O bond formation."}
